US04880809
1-(6,7-dibenzyloxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.4 g) is dissolved in acetic acid (8 ml). To the solution is added a 30% solution of hydrogen bromide-acetic acid (4 ml), and the mixture is left standing at room temperature for one hour. To the reaction mixture is added ethyl ether (200 ml), and the mixture is left standing, and then the supernatant is removed by decantation. The precipitates are washed twice with 50 ml each portion of ethyl ether, followed by addition of ethanol (10 ml), whereupon crystallization occurs. The crystals are diluted in ethyl ether (30 ml). The precipitates are collected by filtration to give 1-(6,7-dihydroxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrobromide (0.25 g) as colorless crystals, m.p. 258°-262° C.

reactant | 1-(6,7-dibenzyloxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.4 g | Cl.C(C1=CC=CC=C1)OC=1C=C2C=C(CCC2=CC1OCC1=CC=CC=C1)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC
reactant | hydrogen bromide acetic acid | 4 ml | Br.C(C)(=O)O
reactant | ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 1-(6,7-dihydroxy-1,2-dihydro-3-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrobromide | 0.25 g | Br.OC=1C=C2C=C(CCC2=CC1O)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C25H30N2O6.BrH/c1-31-22-10-16(11-23(32-2)24(22)33-3)15-26-6-8-27(9-7-26)25(30)18-5-4-17-13-20(28)21(29)14-19(17)12-18;/h10-14,28-29H,4-9,15H2,1-3H3;1H
